US03989503
Preparation of 2,2-dimethyl-3-dichloroacetyl oxazolidine
Five and one-tenth (5.1 g.) grams of 2,2-dimethyl oxazolidine dissolved in 50 ml. of benzene was treated with 5.5 g. of triethylamine and 7.4 g. of dichloroacetyl chloride was added dropwise with stirring and cooling in an ice bath. The mixture was poured into water, the benzene solution separated, dried over anhydrous magnesium sulfate and the solvent stripped under vacuum. The product was a waxy solid which had a melting point of 113°-115° C. on recrystallization from diethyl ether.

reactant | 2,2-dimethyl oxazolidine | CC1(OCCN1)C | C5H11NO
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | dichloroacetyl chloride | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | water | O | H2O
product | 2,2-dimethyl-3-dichloroacetyl oxazolidine | CC1(OCCN1C(C(Cl)Cl)=O)C | C7H11Cl2NO2
